
* test_comparaotr
*ZZ****INV_K
.options post=1 ingold=2 numdgt=7 list nomod nopage
*excel_version
*.options post=0 ingold=2 numdgt=7 list nomod nopage
.include "option.net"
.OPTION  accurate
.option dcstep=1
.option GSHUNT=1E-12
.op
.TEMP 27
.save
**********************************************************

.INCLUDE comp_out.net

V1 N005 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
VIN1 N002 N004 VIN
V2 N004 0 0.9
V3 N001 0 1.8
E1 N003 N004 N002 N004 -1
C1 VOUTP 0 10f
C2 VOUTN 0 10f
XX1 N005 N001 N003 N002 0 VOUTN VOUTP my_comparator

*.step dec param VIN 0.1m 10m
.tran 10p 40n
.MEAS TRAN tl when V(VOUTN) = '1.72'

.print V(VOUTN) V(VOUTP) V(N051) V(N050)

.param VIN = -10m
.end
