* test_comparaotr
*ZZ****INV_K
.options post=1 ingold=2 numdgt=7 list nomod nopage
*excel_version
*.options post=0 ingold=2 numdgt=7 list nomod nopage
.include "option.net"
.OPTION  accurate
.option dcstep=1
.option GSHUNT=1E-12
.op
.TEMP 27
.save
**********************************************************

.INCLUDE my_comp.net

V1 N003 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
VIN1 VINP N002 PULSE(-25m 25m 0 1000n 0 0 1000n)
V2 N002 0 0.9
V3 N001 0 1.8
E1 VINN N002 VINP N002 -1
C1 VOP 0 10f
C2 VON 0 10f
XX1 N003 N001 VINN VINP 0 VON VOP my_comparator
XX2 VON VOP N001 VOUTN VOUTP my_sr_latch

.subckt my_sr_latch R S VDD Q Q_BAR
XX1 S Q VDD 0 NC_01 Q_BAR my_cmos_or
XX2 Q_BAR R VDD 0 NC_02 Q my_cmos_or

.subckt my_cmos_or A B VDD VSS Q Q_BAR
M1 Q_BAR B VSS VSS CMOSN l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS CMOSN l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD CMOSP l=0.18u w=1.8u m=1
M4 N001 A VDD VDD CMOSP l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS CMOSN l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD CMOSP l=0.18u w=1.8u m=1
.ends my_cmos_or

.ends


.ic V(VOP)=0 V(VON)=1.8

.tran 1n 1000n
.print V(VINP) V(VINN) V(VOUTP) V(VOUTN)
.meas offset find V(VINP,VINN) when V(VOUTP)=0.9

.END