* C:\Users\circuit\spice\saradc\module\Draft1.asc
M1 N013 N005 N001 N009 cmosp l=0.13u w=1u m=8
M2 P001 N006 N002 N010 cmosp l=0.13u w=1u m=12
M3 P002 N007 N003 N011 cmosp l=0.13u w=1u m=12
M4 N018 N008 N004 N012 cmosp l=0.13u w=1u m=8
M5 N019 N023 N025 N021 cmosn l=0.13u w=1u m=8
M6 N020 N024 N026 N022 cmosn l=0.13u w=1u m=8
M7 N027 N031 N033 N029 cmosn l=0.13u w=1u m=12
M8 N028 N032 N034 N030 cmosn l=0.13u w=1u m=12
M9 N036 N038 P003 N037 cmosn l=0.13u w=1u m=12
XX1 vdd N001 para_res
XX2 vdd N009 para_res
XX3 vdd N010 para_res
XX4 vdd N002 para_res
XX5 vdd N003 para_res
XX6 vdd N011 para_res
XX7 vdd N012 para_res
XX8 vdd N004 para_res
XX9 N005 clk para_res
XX10 clk N008 para_res
XX11 N014 N013 para_res
XX12 N018 N017 para_res
XX13 N015 N006 para_res
XX14 N014 P001 para_res
XX15 N016 N007 para_res
XX16 N015 P002 para_res
XX17 N023 N015 para_res
XX18 N024 N016 para_res
XX19 N017 N015 para_res
XX20 N016 N014 para_res
XX21 N019 N016 para_res
XX22 N020 N017 para_res
XX23 vss N021 para_res
XX24 N027 N025 para_res
XX25 N028 N026 para_res
XX26 vss N022 para_res
XX27 inn N031 para_res
XX28 N032 inp para_res
XX29 N033 N035 para_res
XX30 N029 vss para_res
XX31 N030 vss para_res
XX32 N034 N035 para_res
XX33 N035 N036 para_res
XX34 N038 clk para_res
XX35 vss P003 para_res
XX36 vss N037 para_res

* block symbol definitions
.subckt para_res s g
R1 s g 1
.ends para_res

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
