* C:\Users\circuit\spice\saradc\mySARLogic.asc
A1 DDDD 0 CLK 0 clr qbqb QQQQ 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A10 0 DDDD 0 qbqb 0 0 Sample 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A30 Sample D6 N001 0 0 SW5B SW5 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
V1 DDDD 0 {Vhigh}
A36 CLK 0 0 0 0 N026 0 0 BUF Trise={Trise} Vhigh={Vhigh}
A2 QQQQ 0 CLK 0 N025 COMP_EN N019 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A3 N019 0 CLK 0 clr N013 N020 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A4 N020 0 CLK 0 clr N014 N021 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A5 N021 0 CLK 0 clr N015 N022 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A6 N022 0 CLK 0 clr N016 N023 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A7 N023 0 CLK 0 clr N017 N024 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A8 N024 0 CLK 0 clr N018 N025 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A9 N025 0 N026 0 0 0 clr 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A18 COMP_IN 0 N007 0 Sample 0 N001 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A19 COMP_IN 0 N008 0 Sample 0 N002 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A20 COMP_IN 0 N009 0 Sample 0 N003 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A21 COMP_IN 0 N010 0 Sample 0 N004 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A22 COMP_IN 0 N011 0 Sample 0 N005 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A23 COMP_IN 0 N012 0 Sample 0 N006 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A24 N001 0 clr 0 0 0 Q05 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A25 N002 0 clr 0 0 0 Q04 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A26 N003 0 clr 0 0 0 Q03 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A27 N004 0 clr 0 0 0 Q02 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A28 N005 0 clr 0 0 0 Q01 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A29 N006 0 clr 0 0 0 Q00 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A11 0 QQQQ 0 COMP_EN 0 0 N0V 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A12 0 N019 0 N013 0 N007 D6 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A13 0 N020 0 N014 0 N008 D5 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A14 0 N021 0 N015 0 N009 D4 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A15 0 N022 0 N016 0 N010 D3 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A16 0 N023 0 N017 0 N011 D2 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A17 0 N024 0 N018 0 N012 D1 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A31 Sample D5 N002 0 0 SW4B SW4 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A32 Sample D4 N003 0 0 SW3B SW3 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A33 Sample D3 N004 0 0 SW2B SW2 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A34 Sample D2 N005 0 0 SW1B SW1 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A35 Sample D1 N006 0 0 SW0B SW0 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
.backanno
.end
